US05189023
2-Methylpropyl dichlorophosphate
To a solution of 1.8 ml (20 mmol) of 2-methyl-1-propanol in diethyl ether (40 ml) is added 2.02 g (20 mmol) of triethylamine, followed by 1.9 ml (20 mmol) of phosphorus oxychloride with stirring and cooling at 0° C. The mixture is stirred at 0° C. for 1 hr. It is then filtered and evaporated under reduced pressure to give 3.86 g of a colorless oil.

reactant | 2-methyl-1-propanol | 20 mmol, 1.8 ml | CC(CO)C | C4H10O
reactant | triethylamine | 20 mmol, 2.02 g | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 20 mmol, 1.9 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | 2-Methylpropyl dichlorophosphate | 3.86 g | P(=O)(OCC(C)C)(Cl)Cl | C4H9Cl2O2P
